US04242507
In 1 N aqueous sodium hydroxide (50 ml) is dissolved 1-hydroxy-6-chloro-1,2,3-benzotriazole (4.5 g) and thereto is added ether (10 ml). To the solution is added benzenesulfonyl chloride (6.0 g) with stirring under ice-cooling and the mixture is stirred at the same temperature for 75 minutes. The reaction mixture is filtered to give crystals. The filtrate is extracted with ethyl acetate (150 ml), and the extract is distilled to remove the solvent. The resulting crystals are combined with those obtained above and recrystallized from benzene-n-hexane to give 1-benzenesulfonyloxy-6-chloro-1,2,3-benzotriazole (6.0 g), melting point: 110°-110.5° C. Infrared spectrum (Nujor): 1200, 1086 cm-1.

reactant | 1-hydroxy-6-chloro-1,2,3-benzotriazole | 4.5 g | ON1N=NC2=C1C=C(C=C2)Cl | C6H4ClN3O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | benzenesulfonyl chloride | 6.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
product | 1-benzenesulfonyloxy-6-chloro-1,2,3-benzotriazole | 6.0 g | C1(=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C12H8ClN3O3S
